US04118483
(a) Z-D-Gln(But)-OBzl
To a solution of 9.9 grams of Z-D-Glu-OBzl and 3.6 grams of 1-hydroxybenzotriazole in 50 ml of absolute tetrahydrofurane are added 1.96 grams of tert.-butylamine and at 0° C. 5.86 grams of DCC. The mixture is stirred for 2 hours at 0° C. and overnight at room temperature. The next day the precipitate is filtered off with suction and the filtrate is concentrated. The residue is dissolved in ethyl acetate and the solution is washed in succession with a saturated solution of sodium bicarbonate, 2n-HCl, a saturated solution of sodium bicarbonate and water, dried with sodium sulphate and concentrated. Yield: 4.6 gams of an oil.

reactant | Z-D-Glu-OBzl | 9.9 grams | N([C@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C20H21NO6
reactant | 1-hydroxybenzotriazole | 3.6 grams | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tert.-butylamine | 1.96 grams | C(C)(C)(C)N | C4H11N
reactant | DCC | 5.86 grams | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | Z-D-Gln(But)-OBzl | N([C@H](CCC(NC(C)(C)C)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C24H30N2O5
